US07138520B2
Synthesis of 3-tert-butoxycarbonylaminopropionic acid (L2).
Triethylamine (6.2 mL, 45 mmol) was added to a solution of 3-aminopropionic acid (2.67 g, 30.0 mmol) in 50% aqueous dioxane (30 mL). BOC-ON (8.15 g, 33.1 mmol) was added and the reaction stirred for 3 h at room temperature. The reaction solution was diluted with H2O (40 mL) and ethyl acetate (60 mL). The aqueous layer was isolated, washed with ethyl acetate, and acidified with a 5% citric acid solution. The aqueous layer was subsequently extracted with ethyl acetate. The organic fractions were combined and evaporated to yield L2 as a cream solid (3.64 g, 62.8%). 1H NMR (d6-DMSO, 300 MHz): δ 1.35 (s, 9H, CH3), 2.33 (t, 2H, CH2), 3.11 (q, 2H, CH2), 6.67 (t, 1H, NH).

reactant | Triethylamine | 45 mmol, 6.2 mL | C(C)N(CC)CC | C6H15N
reactant | 3-aminopropionic acid | 30.0 mmol, 2.67 g | NCCC(=O)O | C3H7NO2
reactant | BOC-ON | 33.1 mmol, 8.15 g | CC(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 40 mL | O | H2O
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | 3-tert-butoxycarbonylaminopropionic acid | 3.64 g, 62.8% | C(C)(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
